US05264454
1-Morpholino-2-nitroethene (3.93 g) was added to a mixture of 5-amino-6-(2-chlorobenzoyl)indan (4.50 g), 6N HCl (15 ml) and acetone (45 ml) and the whole mixture was stirred at room temperature for one hour. To this reaction mixture was added water to give crystals of 6-(2-chlorobenzoyl)-5-(2-nitroethenylamino)indan (5.40 g, 95.2%). Recrystallization from ethanol gave yellow needles, mp. 225°-226° C.

reactant | 1-Morpholino-2-nitroethene | 3.93 g | O1CCN(CC1)C=C[N+](=O)[O-] | C6H10N2O3
reactant | 5-amino-6-(2-chlorobenzoyl)indan | 4.50 g | NC=1C=C2CCCC2=CC1C(C1=C(C=CC=C1)Cl)=O | C16H14ClNO
reactant | HCl | 6N, 15 ml | Cl | ClH
reactant | acetone | 45 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 6-(2-chlorobenzoyl)-5-(2-nitroethenylamino)indan | 5.40 g, 95.2% | ClC1=C(C(=O)C2=C(C=C3CCCC3=C2)NC=C[N+](=O)[O-])C=CC=C1 | C18H15ClN2O3
